US07531553B2
Step B: N-Boc-(2-Chloro-5-nitro-benzyl)-(2-methyl-allyl)-amine.
To a mixture of the (2-chloro-5-nitro-benzyl)-(2-methyl-allyl)-amine (12 g) in THF (120 mL) and 2N NaOH aqueous solution (25 mL) was added. Boc anhydride (11.4 g, 1.2 eq) was added. The mixture was stirred at 25° C. for 3 h. The THF was removed under reduced pressure and the mixture was extracted with toluene. The toluene was removed under reduced pressure to give an oil residue.

reactant | (2-chloro-5-nitro-benzyl)-(2-methyl-allyl)-amine | 12 g | ClC1=C(CNCC(=C)C)C=C(C=C1)[N+](=O)[O-] | C11H13ClN2O2
reactant | Boc anhydride | 11.4 g, 1.2 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | NaOH | 2N, 25 mL | [OH-].[Na+]
product | N-Boc-(2-Chloro-5-nitro-benzyl)-(2-methyl-allyl)-amine | C(=O)(OC(C)(C)C)N(CC(=C)C)CC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C16H21ClN2O4
